datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.CC[N+:62](C1=CC=CC=C1)(C(C)C)[BH2-:11][H:10]>>C1=CC=C([C:22]2=[CH:21][CH:20]([H:10])[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1.CC[N+:62](C1=CC=CC=C1)(C(C)C)[BH2:11] 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CN(C)C1=CC=C([P:10](C2=CC=C(N(C)C)C=C2)C2=CC=C(N(C)C)C=C2)C=C1>>CN(C)C1=CC=C([P+:10](C2=CC=C(N(C)C)C=C2)(C2=CC=C(N(C)C)C=C2)[CH:20]([C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)C=C1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C=C(C)C[C:11](C)=[CH2:10].CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C=C(C)C[C+:11](C)[CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
"C1=CC2=C(C=C1)[S:71](=[O:72])(=[O:92])[CH-:10][S:61]2(=[O:62])=[O:82].[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4CC[CH:20]([CH:10]5[S:61](=[O:62])(=[O:82])C6=C(C=CC=C6)[S:71]5(=[O:72])=[O:92])C1C2C43 10=20;20,21=21"
"CC(C)(C1=C(I)C=CC=C1)[O:21][S:20]C(F)(F)F.CC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N:10]2>>CC(C)(C1=C(I)C=CC=C1)[O-:21].CC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N+:10]2[S:20]C(F)(F)F 10=20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([H:10])[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12"
"C[C:11]1=[CH:10]CCCC1.C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>C[C+:11]1CCCC[CH:10]1[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[C:42]([C:43]1=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]1)[C:53]1=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]1 10,11=10,20"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].[H:10][CH:11]([CH:62]=[CH2:63])[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1>>CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].[CH+:11]([CH:62]=[CH2:63])[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:12][CH:11](C)[H:10].CSC[C:20](C)=[O:21]>>CC[O+:12]=[CH:11]C.CSC[C:20](C)([H:10])[O-:21] 10,11=10,20;12=11,12;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1.C[N:61](C)[NH2:10]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([NH2+:10][N:61](C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1 10=20;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.C[Si](C)(C)[O:71][C:10]1=[C:11]([O:12][Si:63](C)(C)C)CCCC1>>CC1=CC=C([S:32]([N-:21][CH:20]([C:10]2([O:71][Si](C)(C)C)CCCC[C:11]2=[O+:12][Si:63](C)(C)C)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1.[O+]#C[Fe-3:63]123(C#[O+])(C#[O+])C4C[CH:10]=[CH:11][CH:62]1C2C43>>[O+]#C[Fe-3:63]123(C#[O+])(C#[O+])C4C[CH:10]([C:20]([C:31]5=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]5)([C:41]5=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]5)[C:51]5=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]5)[CH+:11][CH:62]1C2C43 10,11=10,20"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.C[C:11]1=[CH:10][CH:71]=[CH:72][C:63](C)=[CH:62]1>>CC1=CC=C([S:32]([N-:21][CH:20]([CH:10]2[C+:11](C)[CH:62]=[C:63](C)[CH:72]=[CH:71]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;20,21=21"
"CC[O:62][Si:11]([H:10])([O:72]CC)[O:82]CC.C[N+:21](C1=CC=CC=C1)=[CH2:20]>>CC[O:62][Si+:11]([O:72]CC)[O:82]CC.C[N:21](C1=CC=CC=C1)[CH2:20][H:10] 10,11=10,20;20,21=21"
